US04859680
Step F: 1-[2,2-Bis(hydroxymethyl)cyclopropylmethyl]uracil
A suspension of 3.62 mmoles of 1-[2,2-bis(benzoyloxymethyl)-1-cyclopropylmethyl]uracil in 178 ml of 2.5N HCl is stirred at 100° for about 5 hours. The reaction mixture is concentrated to a residual semi-solid which is triturated with three 20 ml portions of Et2O and dried, and the residue is dissolved in 5 ml of water and neutralized (pH 7) with 2N NaOH. The solid separates and is removed and dried, and the filtrate is concentrated to dryness. The solids are then combined, dissolved in a small amount of CHCl3 -MeOH (1:1) and put on five 2000 micron preparative TLC plates which are developed in CMW (70:30:3). The product bands (Rf 0.3) are eluted with CHCl3 -MeOH (3:2) and when concentrated yield the titled product.

reactant | 1-[2,2-bis(benzoyloxymethyl)-1-cyclopropylmethyl]uracil | 3.62 mmoles | C(C1=CC=CC=C1)(=O)OCC1(C(C1)CN1C(=O)NC(=O)C=C1)COC(C1=CC=CC=C1)=O | C24H22N2O6
solvent | HCl | 2.5N, 178 ml | Cl | ClH
product | 1-[2,2-Bis(hydroxymethyl)cyclopropylmethyl]uracil | OCC1(C(C1)CN1C(=O)NC(=O)C=C1)CO | C10H14N2O4
